* Full optical link with parametric LED-photodiode distance:
* Pitaya -> PRE -> discrete amp -> BIAS-TEE -> LED -> free space (D) -> PD -> TIA -> RX amp
.include ../models/bfr740l3rh.lib
.include ../models/lmh34400.lib
.include ../models/bga616.lib
.include ../models/preemphasis.sub
.include ../models/tx_amp.sub
.include ../models/bias_tee.sub
.include ../models/led_equiv.sub
.include ../models/rx_amp.sub
.param VCC=3.3
* optical channel (parametric distance)
.param D=0.5
.param K0=1e-3
* G = ganancia optica de recoleccion (lente/concentrador)
.param G=1
.param K={K0*G/(D*D)}
* ---- transmitter ----
Vsrc src 0 dc 0 ac 1
Rs   src in 50
XPRE in p1 0 PREEMPHASIS
XAMP p1 n1 vcc 0 TXAMP
Vbias vbias 0 {VCC} ac 0
Rdcn1 n1 0 1e9
XBT  n1 vbias nled 0 BIAS_TEE
Vsense nled a 0
Cdcl a a2 1u
Rdc  a 0 1e9
XLED a2 0 LED_EQ
* ---- optical channel: i_pd = K * i_led, K = K0 / D^2 ----
Fpd  0 npd Vsense {K}
Rnpd npd 0 1e9
Cdc2 npd pd 1u
Rpd  pd 0 1e9
Cd   pd 0 1p
* ---- receiver ----
Vdd  vdd 0 {VCC}
Ven  nen 0 0
Valc nidc 0 3.3
XU1  pd vdd nen nidc 0 tiaout LMH34400
Vrx  vccrx 0 5
XRX  tiaout out vccrx 0 RXAMP
Rl   out 0 50
.ac dec 100 1M 1G
.end
